US04433152
A mixture of 4 g of 1-amidino-4-piperidinepropionic acid hydrochloride, 1.9 of o-methylphenol, 3.5 g of dicyclohexylcarbodiimide and 20 ml of dry pyridine was stirred overnight at room temperature. Any insoluble materials were filtered and washed with pyridine. The filtrate and washings were combined together, and the solvent was removed under reduced pressure. Ethyl acetate and ether were added to the residue to give crystals. After being air-dried, the crystals were recrystallized from water to obtain 3 g (yield: 54%) of -methylphenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless prisms having a melting point of 184° to 185.5° C. The IR and NMR spectra of the compound were identical with those of the compound obtained in Example 28.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 4 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | o-methylphenol | CC1=C(C=CC=C1)O | C7H8O
reactant | dicyclohexylcarbodiimide | 3.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | methylphenyl 1-amidino-4-piperidinepropionate hydrochloride | yield: 54% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=C(C=CC=C1)C | InChI=1S/C16H23N3O2.ClH/c1-12-4-2-3-5-14(12)21-15(20)7-6-13-8-10-19(11-9-13)16(17)18;/h2-5,13H,6-11H2,1H3,(H3,17,18);1H
